US08314088B2
(6R)-8-benzyl-6-(methoxymethyl)-N-methyl-N-(1-methylpropyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine
To a solution of (2R)-1-[benzyl({3-chloro-5-[methyl(1-methylpropyl)amino]pyrazin-2-yl}methyl)amino]-3-methoxypropan-2-ol (385 mg) in DMF (10 mL) was added potassium tert-butoxide (126 mg), and the mixture was stirred at room temperature for 1.5 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (solvent gradient: 20→50% ethyl acetate/hexane) to give the title compound (300 mg, 86%).

reactant | (2R)-1-[benzyl({3-chloro-5-[methyl(1-methylpropyl)amino]pyrazin-2-yl}methyl)amino]-3-methoxypropan-2-ol | 385 mg | C(C1=CC=CC=C1)N(C[C@H](COC)O)CC1=NC=C(N=C1Cl)N(C(CC)C)C | C21H31ClN4O2
reactant | potassium tert-butoxide | 126 mg | CC(C)([O-])C.[K+]
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (6R)-8-benzyl-6-(methoxymethyl)-N-methyl-N-(1-methylpropyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 300 mg, 86% | C(C1=CC=CC=C1)N1C[C@@H](OC2=C(C1)N=CC(=N2)N(C(CC)C)C)COC | C21H30N4O2
